US03953415
Step 12: H-Asn-Gly-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu (H-25-31-OtBu)
6.47 g. (5.7 mmoles) of Z-25-31-OtBu are dissolved in a mixture of 220 ml. of ethanol and 20 ml. of DMF, and gaseous hydrogen is bubbled into the mixture for 1 hour in the presence of 1 g. of palladium-on-carbon. The catalyst is removed by filtration, the filtrate is evaporated to dryness, and the gelly residue is triturated with ether. The solid is filtered off and washed. 4.9 g. (86.2 %) of H-25-31 -OtBu are obtained. M.p.: 174°-176° C (under decomposition, Rf3 = 0.2.

reactant | Z-Asn-Gly-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu | 5.7 mmoles | N([C@@H](CC(N)=O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C54H86N8O18
solvent | ethanol | C(C)O | C2H6O
product | H-Asn-Gly-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu | N[C@@H](CC(N)=O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C | C46H80N8O16
